US07582773B2
Step 6: Synthesis of 1,3-Dibenzyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(1,3-dibenzyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile (0.481 g, 0.953 mmol) was reacted with NaN3 (0.310 g, 4.766 mmol) and NH4Cl (0.255 g, 4.766 mmol) in DMF (5 ml) to give the product (0.394 g, 0.719 mmol, 75%) as an off-white solid, dec. 191-194° C. 1H NMR (DMSO-d6) δ 4.08 (s, 2H), 5.35 (s, 2H), 5.51 (s, 2H), 6.89 (d, J=7.2 Hz, 2H), 7.10-7.25 (m, 10H), 7.37 (dd, J=1.7 Hz, 8.5 Hz, 1H), 7.40-7.54 (m, 8H), 7.61 (s, 1H), 16.80 (broad s, 1H); IR (solid) 3020, 2920, 1605, 1520, 1470, 1450, 1360, and 1240 cm−1; [ESI(−)], m/z 546 (M−H)−; Anal. Calcd. for C36H29N5O: C, 78.95; H, 5.34; N, 12.79; Found: C, 78.53H, 5.25; N, 12.77.

reactant | [4-(1,3-dibenzyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 0.953 mmol, 0.481 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C36H28N2O
reactant | NaN3 | 4.766 mmol, 0.310 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 4.766 mmol, 0.255 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,3-Dibenzyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OCC1=NN=NN1)CC1=CC=CC=C1)C1=CC=CC=C1 | C36H29N5O
